US08168794B2
To a solution of (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate (1 eq) in 28 methanol was added 10% Pd/C (0.1 eq). The resulting suspension was stirred at H2 atmosphere for 1 hours. The crude solids were filtered through a pad of Celite on a paper lined Buchner funnel, washed with MeOH, then concentrated in vacuo. The residue was dissolved in 33 mL of isopropanol and DIPEA (2.5 eq) and 4-chloro-3-nitropyridine (1.5 eq) were added. The reaction mixture was stirred at 80° C. for 2 hours, at which point the reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was diluted with 150 mL of EtOAc, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (5% methanol in EtOAc:hexanes=1:1) to yield tert-butyl(3S,5R)-5-fluoro-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate (90%). LC/MS (m/z): 341.1 (MH+). HPLC: Rt: 2.12 min.

reactant | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate | 1 eq | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)F)C(=O)OCC1=CC=CC=C1 | C18H25FN2O4
reactant | DIPEA | 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-3-nitropyridine | 1.5 eq | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
solvent | methanol | CO | CH4O
product | tert-butyl(3S,5R)-5-fluoro-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 90% | F[C@@H]1C[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C15H21FN4O4
